US06258955B1
Low pressure hydrogenations were carried out by charging 250 mL of solvent, 246 g of 2-pyridineethanol, and catalyst into a pressure vessel capable of agitation, agitating the resulting mixture and pressurizing the vessel and its contents to 500 psi with hydrogen. Under constant hydrogen pressure and continued agitation, the reaction mixture was heated to 150° C. until hydrogen uptake ceased. The pressure vessel and its contents were cooled, vented and the catalyst removed with vacuum filtration. Upon distillation of the filtrate, 2-piperidineethanol was obtained and analyzed on two separate gc columns (6′ CW 20M 160° C. and 15M DB-1 80° C.→220° C.@ 16° C./m capillary column) to provide product yield and composition of the distillate. The results are provided in Table I.

reactant | 2-pyridineethanol | 246 g | N1=C(C=CC=C1)CCO | C7H9NO
reactant | hydrogen | [H][H] | H2
product | 2-piperidineethanol | N1C(CCCC1)CCO | C7H15NO
